Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ ___-speaking man with
HTN, HLD, COPD, lumbar radiculopathy/spinal stenosis, alcoholic
hepatitis, gout, AAA s/p repair and distal aortic occlusion, 
Afib
on apixaban c/b tachy-___ syndrome s/p PPM who presents today
with incidentally found occlusion for the right common iliac
artery and 2 weeks of Shortness of breath/chest pain. 

He is being followed by his PCP ___ liver and kidney
lesions. He was sent for a follow-up CT and was incidentally
found to have complete occlusion of the right common iliac 
artery
that was partially imaged on CTAP. He was instructed to go to 
the
ED for additional evaluation. He notes that for about a year he
has noticed right leg cramping at the calf that worsens with
ambulation and improves with rest. On arrival, vascular surgery
was consulted and recommended further imaging. He underwent CTA
of the aorta and lower extremities which showed thrombvus
occluding the common iliac artery graft, with distal
reconstitution of flow. He was noted to have palpable pulses in
both ___, and vascular surgery recommend outpatient followup. he
was briefly placed on a heparin gtt, and apixaban was held. 

He also noted 2 weeks of shortness of breath with associated
cough. This is not associated with ambulation or rest. He
describes episodes of chest pain that radiates to the upper mid
chest which occur with walking upstairs sometimes but not
presently. He is unable to provide further history. 

In the ED: VSS, Temp 98.6 HR 61 BP 130/75 RR 17 SpO2 100% RA.
Imaging was notable as above, and labs notable for: CBC and BMP
wnl. Trop negative x2, normal BNP, CXR with mild congestion. EKG
atrially paced without dynamic ischemic changes. After 
discussion
with the patient's primary care physician he was admitted for 
ACS
ruleout. 

He received: 
___ 22:35 IV Heparin 1750 units/hr 
___ 22:35 IV Furosemide 20 mg 
___ 08:42 PO/NG Allopurinol ___ mg
___ 08:47 PO/NG Losartan Potassium 100 mg
___ 08:47 PO Metoprolol Succinate XL 50 mg 

On arrival to the floor: On arrival, Mr. ___ is comfortable
and is not reporting any active chest pain, though notes that he
has been having some shortness of breath and coughing up phlegm.
He also continues to have some mild cramping at the right calf. 
No fevers or chills. Denies Palpitations. No nausea or vomiting.
No diarrhea or constipation. No dysuria or hematuria.

 
Past Medical History:
ABDOMINAL AORTIC ANEURYSM                                       
5.6 cm by CT. Repair done ___ at ___.                      
ALCOHOLIC HEPATITIS                                             
GOUT                                                           
HYPERLIPIDEMIA                                                  
HYPERTENSION                                          
LUMBAR RADICULOPATHY                                            
S/P LAP CHOLECYSTECTOMY                                         
___ for chronic cholecystitis                             
ATRIAL FIBRILLATION                                   
Admitted to ___ ___ with Afib with RVR. Treated for rated   
control and became very bradycardic requiring pacemaker implant.

 
Social History:
___
Family History:
Denies any previous family history of cardiac issues and reports 
that to his knowledge his siblings are healthy.
 
Physical Exam:
Admission:
___ 1435 Temp: 98.0 PO BP: 146/81 HR: 63 RR: 18 O2 sat: 93% 
O2 delivery: Ra 
General: alert, oriented, no acute distress  
Eyes: Sclera anicteric  
HEENT: MMM
Neck: JVP not visualized 
Resp: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses at the DP

Discharge
___ ___ Temp: 97.9 PO BP: 126/84 R Lying HR: 60 RR: 18 O2 
sat: 95% O2 delivery: Ra 
General: alert, oriented, no acute distress  
Eyes: Sclera anicteric  
HEENT: MMM
Neck: JVP not visualized 
Resp: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses at the DP
 
Pertinent Results:
Admission Labs: 
___ 06:15PM BLOOD WBC-11.4* RBC-5.82 Hgb-17.1 Hct-52.9* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-13.7 RDWSD-45.9 Plt ___
___ 06:15PM BLOOD Neuts-53.6 ___ Monos-7.2 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-6.11* AbsLymp-4.13* AbsMono-0.82* 
AbsEos-0.23 AbsBaso-0.03
___ 06:15PM BLOOD ___ PTT-29.6 ___
___ 06:15PM BLOOD Glucose-123* UreaN-21* Creat-0.9 Na-142 
K-4.7 Cl-103 HCO3-24 AnGap-15
___ 10:35PM BLOOD cTropnT-<0.01
___ 06:15PM BLOOD cTropnT-<0.01 proBNP-213
___ 11:05AM BLOOD K-4.5

Key Labs: 
___ 10:35PM BLOOD cTropnT-<0.01
___ 06:15PM BLOOD cTropnT-<0.01 proBNP-213

Imaging: 
CT Abd/Pelv with ___

IMPRESSION:
1. Complete occlusion of the partially imaged right common iliac 
artery with
occlusive thrombus extending into the distal aorta.  Finding is 
new compared
to the prior MRI from ___ when the proximal partially 
imaged right
common iliac artery was patent.
2. Multiple low-attenuation renal cortical cysts without 
evidence of internal
complexity. No liver lesions seen.
3. Stable appearance of the 5 mm pancreatic hypodensities, 
previously
characterized as likely side branch IPMNs.

___
Impression:
Congestion with mild edema, stable moderate cardiomegaly.  
Pacemaker in place.

CTA AORTA/BIFEM/ILIAC RUNOFF W/W&WO C AND ___

IMPRESSION:
1. Occlusive, intraluminal thrombus extending from the origin of 
the right
common iliac artery graft.  Reconstitution of flow at the native 
distal right
external iliac artery from collateral vessels.  The left iliac 
arteries are
patent.
2. Of the right lower extremity, the lower extremity arteries, 
including the
anterior tibial, posterior tibial, and dorsalis pedis arteries 
are patent,
while the peroneal artery is patent to the level of the ankle.
3. Of the left lower extremity, the lower extremity arteries are 
patent to the
level of the ankle.  Moderate atherosclerotic disease is seen 
throughout the
bilateral lower extremity arteries.
4. Mild-to-moderate narrowing of the celiac artery at its 
origin, similar to
prior.  Occlusion of the proximal ___, with distal 
reconstitution of flow,
similar to prior.
5. Possible chronic hematoma of the right groin, new since the 
prior study in
___, extending to the level of the common femoral artery graft 
anastomosis.

Pharmacologic MIBI Cardiac Stress ___
EKG Results:

IMPRESSION: No anginal type symptoms or ischemic EKG changes. 
Baseline
systolic hypertension. Nuclear report sent separately.

Nuclear Report: 

IMPRESSION: 1. No evidence of myocardial perfusion defect. 2. 
Mildly enlarged
left ventricular cavity with normal systolic function.

Discharge Labs
___ 06:50AM BLOOD WBC-8.1 RBC-5.95 Hgb-17.0 Hct-54.2* 
MCV-91 MCH-28.6 MCHC-31.4* RDW-13.7 RDWSD-45.7 Plt ___
___ 06:50AM BLOOD Glucose-111* UreaN-21* Creat-1.0 Na-143 
K-4.8 Cl-101 HCO3-27 AnGap-15
 
Brief Hospital Course:
Information for Outpatient Providers: Mr. ___ is a 
___ ___-speaking man with HTN, HLD, COPD, 
lumbar radiculopathy/spinal stenosis, alcoholic hepatitis, gout, 
AAA s/p repair and distal aortic occlusion, atrial fibrillation 
on apixaban c/b tachy brady syndrome s/p PPM who presented for 
incidentally found occlusion for the right common iliac artery, 
without concern for limb ischemia after evaluation by vascular 
surgery. He also expressed suprasternal chest discomfort and was 
admitted for cardiac work-up with pharmacological nuclear stress 
testing, which was normal.

Active issues
#Chest Pain/SOB: Patient presented with intermittent 
suprasternal pain and shortness of breath x2 weeks, which 
appeared to be a change in in his baseline symptoms, but 
difficulty elaborating clear history. Initial evaluation without 
ischemic changes on EKG and cardiac enzymes x2. Given high risk 
for CAD given HLD, HTN, tobacco use, and PVD(s/p AAA repair) a 
pMIBI was performed no signs of inducible ischemia. The patient 
was started on aspirin 81 mg daily, and simvastatin was changed 
to atorvastatin 40 mg daily given cardiovascular risk profile. 
His chest pain resolved by time of discharge.

#Complete occlusion of R Common iliac artery
#PVD
Presented initially to ED after outpatient CT A/P evaluating 
known kidney and liver lesions incidentally showed full 
occlusion the right common iliac artery. A follow-up CTA 
Aorta/lower extremities showed distal reconstitution of flow. 
Vascular surgery consult in the ED recommended outpatient 
follow-up without need for acute intervention given need no 
concern for limb ischemia with 2+ ___ pulse. He was continued on 
apixaban, and started on aspirin and high-dose statin as above.

#Afib: s/p PPM for tachy ___. 99% atrially paced. CHADS2VASC 
4. Continued on Apixaban and home metoprolol. 

#HLD: Admitted on simvastatin. ASCVD calculated to 63%, will 
discharge on Atorvastatin 40mg

Chronic Issues:
#HTN: Continued Metoprolol. Continued Losartan
#Gout: Continued allopurinol

Transitional issues
[ ] Follow-up with vascular surgery for occlusion of right 
common iliac artery 
[ ] Initiated Aspirin 81mg and Atorvastatin 40mg
[ ] Follow-up with PCP to discuss other causes of chest pain and 
shortness of breath; perception of chest discomfort may have 
been secondary to recent upper respiratory illness. Sensation 
had resolved by time of discharge.
[ ] Follow-up with PCP for ongoing evaluation and management of 
kidney and pancreatic lesions
-- Imaging findings:
---- Multiple low-attenuation renal cortical cysts without 
evidence of internal 
complexity. No liver lesions seen. 
----- Stable appearance of the 5 mm pancreatic hypodensities, 
previously characterized as likely side branch IPMNs.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
2. Allopurinol ___ mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Losartan Potassium 100 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. Triamcinolone Acetonide 0.025% Cream 1 Appl TP TWICE A DAY 
Apply to affected area 
9. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1 
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN  
5.  Allopurinol ___ mg PO DAILY  
6.  Apixaban 5 mg PO BID  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
8.  Losartan Potassium 100 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Triamcinolone Acetonide 0.025% Cream 1 Appl TP TWICE A DAY 
Apply to affected area  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Occlusion of the right common iliac artery
Chest Pain of non-cardiac origin

Secondary Diagnosis 
Peripheral artery disease
Hypertension
Hyperlipidemia
Chronic obstructive pulmonary disease
Gout
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to take care of you at ___.  

WHY WERE YOU HERE?  
- You were admitted to the hospital because you were found to 
have a blockage in an artery going to your right leg. 
- You were also evaluated for chest pain and shortness of breath 
that you have been having for 2 weeks. 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital images of your arteries in your 
legs were done. 
- Our vascular surgery team evaluated you and did not think you 
needed additional treatment for this blockage in the artery of 
your leg. 
- We evaluated your heart with a stress test, which looks to see 
if there are any issues with the arteries going to your heart, 
which was normal. 

WHAT SHOULD YOU DO WHEN YOU GET HOME?  
- You should follow up with Dr. ___ to see if there are any 
other causes of your chest pain or shortness of breath. 
- You should discuss with Dr. ___ vascular surgery whether 
you should continue Aspirin and high dose statin 
- You should follow up with vascular surgery to discuss the 
blockage in the artery going to your right leg. 
 
We wish you the best!  

Your ___ Care Team  
 
Followup Instructions:
___